US07605176B2
VIII.1.c: 2-(pyrrolidin-1-ylmethyl)benzoxazol-6-ylamine
Prepared analogously to Example VI.1.d from 1.80 g (7.28 mmol) of 6-nitro-2-(pyrrolidin-1-ylmethyl)benzoxazole (VIII.1.b) in methanol as solvent. Yield: 1.10 g (70% of theory); Rf value: 0.60 (aluminum oxide, dichloromethane/ethanol=20:1); C12H15N3O; EII mass spectrum: m/z=218 [M+H]+.

reactant | 6-nitro-2-(pyrrolidin-1-ylmethyl)benzoxazole | 7.28 mmol, 1.80 g | [N+](=O)([O-])C1=CC2=C(N=C(O2)CN2CCCC2)C=C1 | C12H13N3O3
reactant | aluminum oxide | [O-2].[Al+3].[O-2].[O-2].[Al+3]
reactant | dichloromethane ethanol | ClCCl.C(C)O
solvent | methanol | CO | CH4O
product | 2-(pyrrolidin-1-ylmethyl)benzoxazol-6-ylamine | N1(CCCC1)CC=1OC2=C(N1)C=CC(=C2)N | C12H15N3O
